US07465795B2
4-amino-7-chloro-8-(2,5-dimethylphenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-7-chloro-8-iodo-N-propyl-cinnoline-3-carboxamide (78 mg, 0.20 mmol) and (2,5-dimethylphenyl)boronic acid (63 mg, 0.417 mmol) were reacted to afford the title compound (33 mg, 45% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.48 (bm, 1H), 7.85 (bm, 1H), 7.75 (m, 1H), 7.15-7.24 (m, 2H), 6.98 (s, 1H), 3.43 (apparent q, J=6.7 Hz, 2H), 2.36 (s, 3H), 1.95 (s, 3H), 1.63 (apparent sextet, J=7.2 Hz, 2H), 0.98 (t, J=7.4 Hz, 3H). MS APCI, m/z=369 (M+H) HPLC 2.15 min.

reactant | 4-amino-7-chloro-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.20 mmol, 78 mg | NC1=C(N=NC2=C(C(=CC=C12)Cl)I)C(=O)NCCC | C12H12ClIN4O
reactant | (2,5-dimethylphenyl)boronic acid | 0.417 mmol, 63 mg | CC1=C(C=C(C=C1)C)B(O)O | C8H11BO2
product | 4-amino-7-chloro-8-(2,5-dimethylphenyl)-N-propyl-cinnoline-3-carboxamide | 33 mg, 45% yield | NC1=C(N=NC2=C(C(=CC=C12)Cl)C1=C(C=CC(=C1)C)C)C(=O)NCCC | C20H21ClN4O
